US07300943B2
1-tert-Butyl-3-cyclobutyl4-methyl-1,7-dihydro-Pyrazolo[3,4-b]pyridin6-one
To a stirring solution of crude 2-tert-butyl-5-cyclobutyl-2H-pyrazol-3-ylamine (1.0 g, 5.2 mmol) in AcOH (10 mL) was added methyl acetoacetate (1.1 mL, 10.4 mmol). The reaction was then heated to 105° C. for 24 hr, at which time the reaction was cooled to room temperature, concentrated under reduced pressure to remove AcOH, diluted with EtOAc, and quenched with a saturated aqueous solution of NaHCO3. The organic layer was dried over MgSO4, filtered through a frilted funnel, and concentrated under reduced pressure. Purification of the resulting material was accomplished by trituration with hexanes. The product was collected and dried under reduced pressure to give the title compound (0.7 g, 52% yield) as a tan solid. LRMS m/z (APCl) 259.3 (M+1); 500 MHz 1H NMR (CD3OD) δ 6.09 (1, 1H), 3.83 (dddd, J=8.7, 8.7, 8.7, 8.7 Hz, 1H), 2.49-2.28 (m, 4H), 2.42 (d, J=0.8 Hz, 3H), 2.11-2.01 (m, 1H), 1.94-1.86 (m, 1H), 1.71 (s, 9H).

reactant | 2-tert-butyl-5-cyclobutyl-2H-pyrazol-3-ylamine | 5.2 mmol, 1.0 g | C(C)(C)(C)N1N=C(C=C1N)C1CCC1 | C11H19N3
reactant | methyl acetoacetate | 10.4 mmol, 1.1 mL | C(CC(=O)C)(=O)OC | C5H8O3
solvent | AcOH | 10 mL | CC(=O)O | C2H4O2
product | 1-tert-Butyl-3-cyclobutyl4-methyl-1,7-dihydro-Pyrazolo[3,4-b]pyridin6-one | 0.7 g, 52% yield | C(C)(C)(C)N1N=C(C2=C1NC(C=C2C)=O)C2CCC2 | C15H21N3O
